US05198449
(3,4-Dichlorophenyl)(4-piperidinyl)methanone hydrochloride hemihydrate
A slurry of 15 g (0.05 mol) of 1-acetyl-4-(3,4-dichlorobenzoyl)piperidine in 150 mL of 6N hydrochloric acid was heated at mild reflux for 23 hr. The mixture was cooled and neutralized using 50% sodium hydroxide solution and ice. The mixture was extracted several times with benzene and the collected extracts were dried over anhydrous sodium sulfate. The mixture was filtered and the filtrate was concentrated under reduced pressure. The residue obtained weighed 11.1 g (86%). The hydrochloride salt was made in the usual manner on 5 g of the free base. Recrystallization from isopropyl alcohol-ether gave a crystalline solid, mp 221-223.

reactant | 1-acetyl-4-(3,4-dichlorobenzoyl)piperidine | 0.05 mol, 15 g | C(C)(=O)N1CCC(CC1)C(C1=CC(=C(C=C1)Cl)Cl)=O | C14H15Cl2NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 6N, 150 mL | Cl | ClH
product | (3,4-Dichlorophenyl)(4-piperidinyl)methanone hydrochloride hemihydrate | O.Cl.ClC=1C=C(C=CC1Cl)C(=O)C1CCNCC1.ClC=1C=C(C=CC1Cl)C(=O)C1CCNCC1.Cl | InChI=1S/2C12H13Cl2NO.2ClH.H2O/c2*13-10-2-1-9(7-11(10)14)12(16)8-3-5-15-6-4-8;;;/h2*1-2,7-8,15H,3-6H2;2*1H;1H2
